US07910592B2
Triphenylphosphine (46.8 mg, 0.178 mmol) was added to a stirred solution of 3-(hydroxymethyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (46.1 mg, 0.149 mmol) and carbon tetrabromide (59.2 mg, 0.178 mmol) in dry CH2Cl2 (1 mL) at 0° C. under N2. The reaction mixture was loaded directly onto a column and purified by flash chromatography (Si, 12×160 mm, 0-20% EtOAc in hexanes gradient) to afford 3-(bromomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate, as a colorless solid. Rf=0.95 (20% EtOAc/hexanes). 1H NMR (600 MHz, CDCl3): δ 7.21 (s, 1H); 7.01 (s, 1H); 4.48 (s, 2H); 2.81-2.74 (m, 4H); 1.83-1.78 (m, 4H).

reactant | Triphenylphosphine | 0.178 mmol, 46.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(hydroxymethyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 0.149 mmol, 46.1 mg | FC(S(=O)(=O)OC1=CC=2CCCCC2C=C1CO)(F)F | C12H13F3O4S
reactant | carbon tetrabromide | 0.178 mmol, 59.2 mg | C(Br)(Br)(Br)Br | CBr4
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(bromomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=2CCCCC2C=C1CBr)(F)F | C12H12BrF3O3S
